US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(7-cyanoheptyloxy)carbonyl-pyridine
6.7 g (26.8 mmol) of 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester and 6.0 g (26.8 mmol) of 3-amino-crotonic acid-(7-cyanoheptyl)ester are boiled in 50 ml of isopropanol for 12 hours. The precipitate which separates is suction filtered and chromatographed on silica gel with dichloromethane/methanol (98:2). The main fraction yields 7.9 g (65%) of yellow crystals melting at 151°-152° C. after concentration of the fraction by evaporation under vacuum and recrystallisation of the residue from tert.-butyl-methyl ether.

reactant | 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester | 26.8 mmol, 6.7 g | COC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 3-amino-crotonic acid-(7-cyanoheptyl)ester | 26.8 mmol, 6.0 g | C(#N)CCCCCCCOC(\C=C(\C)/N)=O | C12H20N2O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(7-cyanoheptyloxy)carbonyl-pyridine | 7.9 g, 65% | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCC#N)C | C24H29N3O6
